US06949542B2
7,8-Dichloro-4-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from 4,5-dichlorophenylenediamine (89 mg 0.5 mmol) and 3-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K42) (172 mg, 0.55 mmol) by refluxing in xylene according to the general procedure M. Obtained as a light yellow solid (131 mg).

reactant | 4,5-dichlorophenylenediamine | 0.5 mmol, 89 mg | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | 3-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.55 mmol, 172 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=NC=C1)C)=O | C18H20N2O3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 7,8-Dichloro-4-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC(=NC=C2)C)=O)C=C1Cl | C20H14Cl2N4O
